US04503148
(a) 1,4-dibutyryloxy-2,3-dicyanobenzene
4.1 ml butyric acid anhydride are added to 1.6 g 2,3-dicyanohydroquinone in 30 ml 1N NaOH. After agitation for 15 minutes, the mixture is diluted with water, and the reaction mixture is extracted with acetic acid. The separated organic phase is washed in succession with 0.1N NaOH and water and evaporated in a vacuum. The residue is recrystallized from ethanol. Yield 2.3 g (77% of theoretical value). Melting point 86°-87° C.

reactant | butyric acid anhydride | 4.1 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | 2,3-dicyanohydroquinone | 1.6 g | C(#N)C1=C(O)C=CC(=C1C#N)O | C8H4N2O2
solvent | NaOH | 1N, 30 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 1,4-dibutyryloxy-2,3-dicyanobenzene | C(CCC)(=O)OC1=C(C(=C(C=C1)OC(CCC)=O)C#N)C#N | C16H16N2O4
